* gnetlist -L ../.. -g spice-noqsi -o Gm2.net Gm2.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
.subckt Gm21 6 2
M4 1 1 Vdd Vdd pch  l=1u w=10u         
M3 2 1 Vdd Vdd pch  l=1u w=10u         
M5 2 4 3 3 nch  l=3u w=1u         
M6 1 6 5 5 nch  l=3u w=1u         
I2 5 Vss 100uA
I1 3 Vss 100uA
Vb 4 Vss 3V
Rs 3 5 1k      
*
*
.ENDS
